US08383641B2
61.2. 2-Methyl-3-nitro-6-[(1-propionylpyrrolidin-3-yl)oxy]pyridine
2-Methyl-3-nitro-6-(pyrrolidin-3-yloxy)pyridine (1.3 g) was dissolved in dichloromethane (20 ml) and triethylamine (1.57 ml) was added. The solution was cooled to 0° C. and a solution of propionyl chloride (574 mg) in dichloromethane (5 ml) was added dropwise over 5 min. The reaction mixture was allowed to come to room temperature and was stirred for another 5 min. Water (10 ml) was added. After stirring for 3 min, the phases were separated and the aqueous layer was extracted with dichloromethane. The combined organic layers were dried (sodium sulfate) and concentrated in vacuo. The crude product was purified by flash chromatography (silica, dichloromethane/methanol=98/2). Yield: 950 mg (64.9%, pale yellow oil).

reactant | 2-Methyl-3-nitro-6-(pyrrolidin-3-yloxy)pyridine | 1.3 g | CC1=NC(=CC=C1[N+](=O)[O-])OC1CNCC1 | C10H13N3O3
reactant | triethylamine | 1.57 ml | C(C)N(CC)CC | C6H15N
reactant | propionyl chloride | 574 mg | C(CC)(=O)Cl | C3H5ClO
reactant | Water | 10 ml | O | H2O
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 2-Methyl-3-nitro-6-[(1-propionylpyrrolidin-3-yl)oxy]pyridine | CC1=NC(=CC=C1[N+](=O)[O-])OC1CN(CC1)C(CC)=O | C13H17N3O4
